US04243819
To the potassium salt of α-bromoisovaleric acid (1.42 g) is added 4-bromo-2-fluoroaniline (1.9 g). The mixture is heated at 125° under nitrogen for 3.5 hr and then cooled to RT. The reaction product is poured into 2 M NaOH and ether/chloroform. The basic phase is separated and acidified with conc. HCl and then extracted into ether, washed with saturated NaCl solution, dried over calcium sulfate and evaporated to yield N-(4-bromo-2-fluorophenyl)valine.

reactant | potassium | [K] | K
reactant | α-bromoisovaleric acid | 1.42 g | BrC(C(=O)O)C(C)C | C5H9BrO2
reactant | 4-bromo-2-fluoroaniline | 1.9 g | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
reactant | NaOH | 2 M | [OH-].[Na+]
solvent | ether chloroform | CCOCC.C(Cl)(Cl)Cl
product | N-(4-bromo-2-fluorophenyl)valine | BrC1=CC(=C(C=C1)N[C@@H](C(C)C)C(=O)O)F | C11H13BrFNO2
